US05578620
2-t-Butyldimethylsilyloxy-1(R)-methylethylamine
A procedure similar to that described in Preparation 9 was repeated, except that 16.4 g of benzyl N-[2-t-butyldimethylsilyloxy-1(R)-methylethyl]carbamate (prepared as described in Preparation 24), 3.5 g of 10% w/w palladium-on-carbon and 100 ml of ethanol were used, to give 8.55 g of the title compound having an Rf value of 0.27 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent) and having [α]D =-10.1° (methanol, c=1.155).

reactant | benzyl N-[2-t-butyldimethylsilyloxy-1(R)-methylethyl]carbamate | 16.4 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C)NC(OCC1=CC=CC=C1)=O | C17H29NO3Si
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-t-Butyldimethylsilyloxy-1(R)-methylethylamine | 8.55 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C)N | C9H23NOSi
